US06562916B2
AlCl3/ZrCl4 9:1
1.2 g (5.1 mmol) of zirconium tetrachloride and 6.2 g (46.5 mmol) of aluminum trichloride were placed in a two-necked round-bottomed flask under an argon atmosphere. 410 ml of methylene chloride and 23 ml (25.9 g) of nitromethane were added (ratio Zr/nitro compound 1:82.5).

reactant | zirconium tetrachloride | 5.1 mmol, 1.2 g | [Cl-].[Cl-].[Cl-].[Cl-].[Zr+4]
reactant | aluminum trichloride | 46.5 mmol, 6.2 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | methylene chloride | 410 ml | C(Cl)Cl | CH2Cl2
solvent | nitromethane | 23 ml, 25.9 g | [N+](=O)([O-])C | CH3NO2
product | AlCl3 ZrCl4 | [Al+3].[Cl-].[Cl-].[Cl-].[Cl-].[Cl-].[Cl-].[Cl-].[Zr+4] | InChI=1S/Al.7ClH.Zr/h;7*1H;/q+3;;;;;;;;+4/p-7
